US08809525B2
6-(3-Ethynylpiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine (10 mg, 2%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.60 g, 2.40 mmol) and 3-ethynyl piperidine HCl (0.42 g, 2.87 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 2.40 mmol, 0.60 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-ethynyl piperidine HCl | 2.87 mmol, 0.42 g | Cl.C(#C)C1CNCCC1
product | 6-(3-Ethynylpiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine | 10 mg, 2% | C(#C)C1CN(CCC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C16H17N5
